US08580957B2
1-Methylethyl (2E)-2-butenoylcarbamate
Isopropyl carbamate (30 g, 291 mmol, available from TCI) was charged to a 3 L Lara vessel and dry tetrahydrofuran (THF) (150 ml) added. (2E)-2-Butenoyl chloride (31.2 ml, 326 mmol, available from Aldrich) was added under nitrogen and the jacket cooled to −30° C. When the solution temperature reached −17° C. 1M Lithium tert-butoxide (655 mL, 655 mmol) was added by peristaltic pump over 2 hours, keeping the reaction temperature between −10° C. and −18° C. Once the addition was complete the mixture was complete the mixture was stirred for 30 mins and brought to 0° C. Diethyl ether (450 ml) and 1M HCl (375 mL) were added and the mixture brought to 20° C. with vigorous stirring. The stirring was stopped, the layers allowed to separate and the aqueous layer run off. Brine (375 mLI) was added and the mixture stirred vigorously. The stirring was stopped, the layers allowed to separate and the aqueous layer run off. The organic layer was dried (magnesium sulfate), filtered and evaporated to a brown oil (60 g). The mixture was loaded on to a 40+M Biotage silica column and eluted with DCM:ethyl acetate (1:1 to 0:1, 10CV). The product containing fractions were evaporated to dryness and loaded on to a 1500 g Redisep Isco silica column and eluted with a gradient of 0 to 40% ethyl acetate in cyclohexane. The clean, product containing fractions were evaporated to an off white solid (15.41 g). LCMS (Method C): Rt=0.68, MH+=172

reactant | Isopropyl carbamate | 291 mmol, 30 g | C(N)(OC(C)C)=O | C4H9NO2
reactant | (2E)-2-Butenoyl chloride | 326 mmol, 31.2 ml | C(\C=C\C)(=O)Cl | C4H5ClO
reactant | Lithium tert-butoxide | 655 mmol, 1M, 655 mL | CC(C)([O-])C.[Li+]
reactant | HCl | 1M, 375 mL | Cl | ClH
solvent | Diethyl ether | 450 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-Methylethyl (2E)-2-butenoylcarbamate | C(\C=C\C)(=O)NC(OC(C)C)=O | C8H13NO3
